US05525606
A suspension of 8-aminoguanine (Fischer, Z. Physiol. Chem., 60, 69 (1909); Beaman et al., in Zorbach and Tipson, Synthetic Procedures in Nucleic Acid Chemistry, Vol. 1, pp 41-43, John Wiley & Sons, New York, 1968) (3.0 g, 18.1 mmol) in phosphorus oxychloride (90 mL) and N,N-diethylaniline (3 mL) was refluxed for 30 min and the excess phosphorus oxychloride was evaporated under reduced pressure. Ice (20 g) was added slowly to the resulting solution and the pH was adjusted to 6 with a concentrated aqueous sodium hydroxide solution. A yellow solid formed and was collected by filtration, washed with water, and dried to give a green solid. Crystallization from water with charcoal treatment produced 2,8-diamino-6-chloropurine as a white solid: yield, 2.11 g (63%); mp >275° C. dec.; 1H NMR δ6.09 (s, 2H, NH2, exchange with D2O), 6.71 (s, 2H, NH2, exchange with D2O); MS (EI) calcd. m/z for C5H5N635Cl 184.0264, found 184.0266; calcd. m/z C5H5N637Cl 186.0235, found 186.0237.

reactant | 8-aminoguanine | NC1=NC=2N=C(NC(C2N1)=O)N | C5H6N6O
reactant | N,N-diethylaniline | 3 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | phosphorus oxychloride | 90 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,8-diamino-6-chloropurine | NC1=NC(=C2NC(=NC2=N1)N)Cl | C5H5ClN6
